US07052861B2
Synthesis of bifunctional fibrils Fib-Lys(COOH)NH2:
To Nα-CBZ-L-lysine benzyl ester fibrils (113 mg) in methanol (4 ml) was added sodium hydroxide (1 N, 4 ml) and the reaction mixture was stirred overnight. The product Nα-CBZ-L-lysine fibrils was extensively washed with water and methanol and the fibrils were dried under vacuum. To a suspension of Nα-CBZ-L-lysine fibrils (50 mg) in acetonitrile (4 ml) was added trimethyl silyl iodide (1 ml). The mixture was stirred for 3 hours at 40° C. The final bifunctional fibrils were extensively washed with water, methanol, 0.5 N sodium hydroxide, acetonitrile and methylene chloride. Amino acid analysis showed 0.3 μmols lysine per gram of fibrils.

reactant | Nα-CBZ-L-lysine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCCCN)=O | C21H26N2O4
reactant | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
reactant | lysine | 0.3 μmols | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | methanol | 4 ml | CO | CH4O
product | Lys(COOH)NH2 | N[C@@H](CCCCNC(=O)O)C(=O)N | C7H15N3O3
